US07960552B2
To a solution of methyl 6-[4-({[3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (25 mg, 0.058 mmol), N-(2,6-dichlorophenyl)-2,2,2-trifluoroacetamide (15 mg, 0.058 mmol) and triphenylphosphine (30 mg, 0.12 mmol) in dichloromethane was added di-tert-butyl azodicarboxylate (27 mg, 0.12 mmol). The solution was stirred at ambient temperature for approximately 1.5 hours and then was adsorbed onto silica gel and purified by chromatography (silica gel, 0-100% ethyl acetate in hexanes gradient elution). The resulting mixture was further purified by chromatography (silica gel, 2% methanol in dichloromethane) to afford methyl 6-[4-({[3-{[(2,6-dichlorophenyl)(trifluoroacetyl)amino]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (10 mg, 26%). 1H-NMR (400 MHz, CDCl3) δ 8.36-8.33 (m, 2H), 8.22 (d, J=9 Hz, 1H), 8.06-8.01 (m, 2H), 7.71 (d, J=9 Hz, 2H), 7.42-7.29 (m, 3H), 7.11 (d, J=9 Hz, 2H), 5.05 (s, 2H), 5.04 (s, 2H), 4.05 (s, 3H), 3.27 (septet, J=7 Hz, 1H), 1.34 (d, J=7 Hz, 6H). LRMS (APCI) m/z 672 (M+H)+.

reactant | methyl 6-[4-({[3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 0.058 mmol, 25 mg | OCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C | C25H24N2O5
reactant | N-(2,6-dichlorophenyl)-2,2,2-trifluoroacetamide | 0.058 mmol, 15 mg | ClC1=C(C(=CC=C1)Cl)NC(C(F)(F)F)=O | C8H4Cl2F3NO
reactant | triphenylphosphine | 0.12 mmol, 30 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 0.12 mmol, 27 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 6-[4-({[3-{[(2,6-dichlorophenyl)(trifluoroacetyl)amino]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 10 mg, 26% | ClC1=C(C(=CC=C1)Cl)N(C(C(F)(F)F)=O)CC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C | C33H26Cl2F3N3O5
